US07691850B2
b) 5-[(7-Bromo-2,3-dihydro-benzo[1,4]dioxin-6-ylamino)-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione
A mixture of 7-Bromo-2,3-dihydro-benzo[1,4]dioxin-6-ylamine (14.8 g, 64.3 mmol, 1 eq), triethyl orthoformate (12.7 cm3, 77.2 mmol, 1.2 eq) and 2,2-dimethyl-[1,3]dioxane-4,6-dione (Meldrum's acid) (11.1 g, 77.2 mmol, 1.2 eq) in ethanol (70 mL) was heated to reflux. After 1 hour the mixture was allowed to cool to room temperature then filtered, washing with ethanol then ether, to afford a white solid (22.9 g, 93%). LC/MS (ES) m/z 384 (MH+ 100%); 1H-NMR (400 MHz, d4-DMSO), 11.43 (1H, br d, J=20, NH), 8.6 (1H, d, J=12, NCH═C), 7.49 (1H, s, CHCBr), 7.28 (1H, s, CHCN), 4.30-4.27 (4H, m, 2×(CH2O)), 1.68 (6H, s, (CH3)2C)

reactant | 7-Bromo-2,3-dihydro-benzo[1,4]dioxin-6-ylamine | 64.3 mmol, 14.8 g, 1 eq | BrC=1C(=CC2=C(OCCO2)C1)N | C8H8BrNO2
reactant | triethyl orthoformate | 77.2 mmol, 12.7 cm3, 1.2 eq | C(OCC)(OCC)OCC | C7H16O3
reactant | 2,2-dimethyl-[1,3]dioxane-4,6-dione | 77.2 mmol, 11.1 g, 1.2 eq | CC1(OC(CC(O1)=O)=O)C | C6H8O4
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 5-[(7-Bromo-2,3-dihydro-benzo[1,4]dioxin-6-ylamino)-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione | 22.9 g, 93% | BrC=1C(=CC2=C(OCCO2)C1)NC=C1C(OC(OC1=O)(C)C)=O | C15H14BrNO6
